* JTL transport-gate polarity replay; pulse 5 from accepted Q0+10-ohm raw.
* Polarity: original; no amplitude scaling or waveform shaping.
.include jjmit.cir
.include JTL.cir

V_REPLAY JTL_IN 0 pwl(0p 0 200p 0 200.1p 0 200.2p 0 200.3p 0 200.4p 0 200.5p 0 200.6p 0 200.7p 0 200.8p 0 200.9p 0 201p 0 201.1p 0 201.2p 0 201.3p 0 201.4p 0 201.5p 0 201.6p 0 201.7p 0 201.8p 0 201.9p 0 202p 0 202.1p 0 202.2p 0 202.3p 0 202.4p 0 202.5p 0 202.6p 0 202.7p 0 202.8p 0 202.9p 0 203p 0 203.1p 0 203.2p 0 203.3p 0 203.4p 0 203.5p 0 203.6p 0 203.7p 0 203.8p 0 203.9p 0 204p 0 204.1p 0 204.2p 0 204.3p 0 204.4p 0 204.5p 0 204.6p 0 204.7p 0 204.8p 0 204.9p 0 205p 0 205.1p 0 205.2p 0 205.3p 0 205.4p 0 205.5p 0 205.6p 0 205.7p 0 205.8p 0 205.9p 0 206p 0 206.1p 0 206.2p 0 206.3p 0 206.4p 0 206.5p 0 206.6p 0 206.7p 0 206.8p 0 206.9p 0 207p 0 207.1p 0 207.2p 0 207.3p 0 207.4p 0 207.5p 0 207.6p 0 207.7p 0 207.8p 0 207.9p 0 208p 0 208.1p 0 208.2p 0 208.3p 0 208.4p 0 208.5p 0 208.6p 0 208.7p 0 208.8p 0 208.9p 0 209p 0 209.1p 0 209.2p 0 209.3p 0 209.4p 0 209.5p 0 209.6p 0 209.7p 0 209.8p 0 209.9p 0 210p 0 210.1p 7.088784e-08 210.2p 4.511178e-07 210.3p 1.59376e-06 210.4p 4.127958e-06 210.5p 8.747451e-06 210.6p 1.606666e-05 210.7p 2.648919e-05 210.8p 4.012249e-05 210.9p 5.67553e-05 211p 7.589777e-05 211.1p 9.680023e-05 211.2p 0.0001184716 211.3p 0.000139746 211.4p 0.0001594111 211.5p 0.0001763694 211.6p 0.0001897889 211.7p 0.0001992055 211.8p 0.0002045577 211.9p 0.0002061558 212p 0.000204603 212.1p 0.0002006909 212.2p 0.0001952929 212.3p 0.0001892718 212.4p 0.0001834126 212.5p 0.0001783822 212.6p 0.0001747152 212.7p 0.0001728189 212.8p 0.0001729925 212.9p 0.0001754529 213p 0.0001803638 213.1p 0.0001878626 213.2p 0.000198085 213.3p 0.0002111833 213.4p 0.0002273398 213.5p 0.0002467743 213.6p 0.0002697437 213.7p 0.0002965358 213.8p 0.0003274541 213.9p 0.0003627953 214p 0.0004028173 214.1p 0.0004476974 214.2p 0.0004974776 214.3p 0.0005519888 214.4p 0.0006107446 214.5p 0.0006727889 214.6p 0.0007364952 214.7p 0.0007993403 214.8p 0.0008577272 214.9p 0.0009069992 215p 0.0009418116 215.1p 0.0009569561 215.2p 0.0009485311 215.3p 0.000915105 215.4p 0.0008584059 215.5p 0.0007832152 215.6p 0.0006964723 215.7p 0.0006059077 215.8p 0.0005186541 215.9p 0.000440205 216p 0.0003739039 216.1p 0.0003208769 216.2p 0.0002803119 216.3p 0.0002499678 216.4p 0.0002267851 216.5p 0.0002074713 216.6p 0.000188972 216.7p 0.0001687839 216.8p 0.0001451102 216.9p 0.0001168904 217p 8.374931e-05 217.1p 4.598112e-05 217.2p 4.558517e-06 217.3p -3.889384e-05 217.4p -8.220736e-05 217.5p -0.0001228684 217.6p -0.0001582891 217.7p -0.0001861133 217.8p -0.0002045115 217.9p -0.0002124182 218p -0.0002096697 218.1p -0.0001970228 218.2p -0.0001760493 218.3p -0.000148931 218.4p -0.0001181905 218.5p -8.640462e-05 218.6p -5.594086e-05 218.7p -2.875093e-05 218.8p -6.238226e-06 218.9p 1.079553e-05 219p 2.213189e-05 219.1p 2.806059e-05 219.2p 2.926685e-05 219.3p 2.670054e-05 219.4p 2.144456e-05 219.5p 1.45958e-05 219.6p 7.167597e-06 219.7p 1.839137e-08 219.8p -6.192346e-06 219.9p -1.102263e-05 220p -1.424434e-05 220.1p -1.582203e-05 220.2p -1.587923e-05 220.3p -1.465744e-05 220.4p -1.247234e-05 220.5p -9.671735e-06 220.6p -6.598289e-06 220.7p -3.559548e-06 220.8p -8.06576e-07 220.9p 1.478459e-06 221p 3.186254e-06 221.1p 4.277068e-06 221.2p 4.771793e-06 221.3p 4.739216e-06 221.4p 4.281347e-06 221.5p 3.518469e-06 221.6p 2.575299e-06 221.7p 1.569289e-06 221.8p 6.016947e-07 221.9p -2.482995e-07 222p -9.26462e-07 222.1p -1.403686e-06 222.2p -1.67394e-06 222.3p -1.750571e-06 222.4p -1.661596e-06 222.5p -1.444556e-06 222.6p -1.141483e-06 222.7p -7.943798e-07 222.8p -4.415281e-07 222.9p -1.147946e-07 223p 1.620097e-07 223.1p 3.737632e-07 223.2p 5.137868e-07 223.3p 5.828997e-07 223.4p 5.879864e-07 223.5p 5.402917e-07 223.6p 4.536415e-07 223.7p 3.427606e-07 223.8p 2.218178e-07 223.9p 1.03284e-07 224p -2.853444e-09 224.1p -8.951439e-08 224.2p -1.526187e-07 224.3p -1.908984e-07 224.4p -2.054972e-07 224.5p -1.994313e-07 224.6p -1.769843e-07 224.7p -1.431002e-07 224.8p -1.028293e-07 224.9p -6.086528e-08 225p -2.119781e-08 225.1p 1.31099e-08 225.2p 4.002172e-08 225.3p 5.852074e-08 225.4p 6.851333e-08 225.5p 7.066953e-08 225.6p 6.622547e-08 225.7p 5.677188e-08 225.8p 4.405005e-08 225.9p 2.977152e-08 226p 1.547329e-08 226.1p 2.414588e-09 226.2p -8.483163e-09 226.3p -1.665582e-08 226.4p -2.188109e-08 226.5p -2.423589e-08 226.6p -2.403522e-08 226.7p -2.176117e-08 226.8p -1.799026e-08 226.9p -1.332563e-08 227p -8.339267e-09 227.1p -3.527406e-09 227.2p 7.192318e-10 227.3p 4.130578e-09 227.4p 6.558994e-09 227.5p 7.969981e-09 227.6p 8.424634e-09 227.7p 8.056906e-09 227.8p 7.048599e-09 227.9p 5.604705e-09 228p 3.931189e-09 228.1p 2.216736e-09 228.2p 6.193166e-10 228.3p -7.420891e-10 228.4p -1.790855e-09 228.5p -2.491737e-09 228.6p -2.846438e-09 228.7p -2.886751e-09 228.8p -2.666288e-09 228.9p -2.251813e-09 229p -1.714986e-09 229.1p -1.125183e-09 229.2p -5.438161e-10 229.3p -2.039601e-11 229.4p 4.096571e-10 229.5p 7.255594e-10 229.6p 9.203273e-10 229.7p 9.988827e-10 229.8p 9.754556e-10 229.9p 8.706431e-10 230p 7.084432e-10 230.1p 5.1353e-10 230.2p 3.089636e-10 230.3p 1.144597e-10 230.4p -5.473371e-11 230.5p -1.88363e-10 230.6p -2.811612e-10 230.7p -3.324036e-10 230.8p -3.451458e-10 230.9p -3.252684e-10 231p -2.804465e-10 231.1p -2.191503e-10 231.2p -1.497565e-10 231.3p -7.982983e-11 231.4p -1.56067e-11 231.5p 3.831114e-11 231.6p 7.906322e-11 231.7p 1.054651e-10 231.8p 1.178074e-10 231.9p 1.175627e-10 232p 1.070406e-10 232.1p 8.903331e-11 232.2p 6.648268e-11 232.3p 4.219461e-11 232.4p 1.861737e-11 232.5p -2.308206e-12 232.6p -1.922693e-11 232.7p -3.13818e-11 232.8p -3.857168e-11 232.9p -4.10679e-11 233p -3.950463e-11 233.1p -3.47571e-11 233.2p -2.782104e-11 233.3p -1.970328e-11 233.4p -1.133139e-11 233.5p -3.486594e-12 233.6p 3.238165e-12 233.7p 8.456078e-12 233.8p 1.198298e-11 233.9p 1.381661e-11 234p 1.410382e-11 234.1p 1.310051e-11 234.2p 1.11294e-11 234.3p 8.539437e-12 234.4p 5.67062e-12 234.5p 2.825436e-12 234.6p 2.494471e-13 234.7p -1.880131e-12 234.8p -3.457463e-12 234.9p -4.444518e-12 235p -4.861912e-12 235.1p -4.776544e-12 235.2p -4.287305e-12 235.3p -3.510604e-12 235.4p -2.566869e-12 235.5p -1.569326e-12 235.6p -6.153572e-13 235.7p 2.192111e-13 235.8p 8.828073e-13 235.9p 1.348256e-12 236p 1.610717e-12 236.1p 1.684044e-12 236.2p 1.596168e-12 236.3p 1.384157e-12 236.4p 1.089163e-12 236.5p 7.521734e-13 236.6p 4.10396e-13 236.7p 9.475061e-14 236.8p -1.718752e-13 236.9p -3.749336e-13 237p -5.081369e-13 237.1p -5.725112e-13 237.2p -5.749314e-13 237.3p -5.263942e-13 237.4p -4.404741e-13 237.5p -3.315175e-13 237.6p -2.132656e-13 237.7p -9.777596e-14 237.8p 5.314102e-15 237.9p 8.921728e-14 238p 1.500225e-13 238.1p 1.865899e-13 238.2p 2.00147e-13 238.3p 1.936578e-13 238.4p 1.713403e-13 238.5p 1.380263e-13 238.6p 9.866165e-14 238.7p 5.778866e-14 238.8p 1.926581e-14 238.9p -1.39254e-14 239p -3.986453e-14 239.1p -5.75782e-14 239.2p -6.70138e-14 239.3p -6.885532e-14 239.4p -6.433045e-14 239.5p -5.498254e-14 239.6p -4.249528e-14 239.7p -2.85348e-14 239.8p -1.46094e-14 239.9p -1.937981e-15 240p 8.602531e-15 240.1p 1.645092e-14 240.2p 2.143179e-14 240.3p 2.362408e-14 240.4p 2.333469e-14 240.5p 2.108102e-14 240.6p 1.738044e-14 240.7p 1.28468e-14 240.8p 7.988691e-15 240.9p 3.314737e-15 241p -8.155305e-16 241.1p -4.068883e-15 241.2p -6.419014e-15 241.3p -7.769462e-15 241.4p -8.190381e-15 241.5p -7.804539e-15 241.6p -6.822395e-15 241.7p -5.419331e-15 241.8p -3.770732e-15 241.9p -2.104595e-15 242p -5.43687e-16 242.1p 7.716847e-16 242.2p 1.771367e-15 242.3p 2.472899e-15 242.4p 2.823665e-15 242.5p 2.841203e-15 242.6p 2.613205e-15 242.7p 2.192286e-15 242.8p 1.657368e-15 242.9p 1.104912e-15 243p 5.349178e-16 243.1p 3.507658e-17 243.2p -4.033807e-16 243.3p -7.190699e-16 243.4p -8.944528e-16 243.5p -9.909134e-16 243.6p -9.646059e-16 243.7p -8.50607e-16 243.8p -6.839933e-16 243.9p -4.82303e-16 244p -2.630743e-16 244.1p -7.89223e-17 244.2p 7.015316e-17 244.3p 1.929212e-16 244.4p 2.718435e-16 244.5p 3.156892e-16 244.6p 3.332275e-16 244.7p 3.332275e-16 244.8p 2.981509e-16 244.9p 2.279978e-16 245p 1.666138e-16 245.1p 6.138401e-17 245.2p 0 245.3p -5.261487e-17 245.4p -8.769145e-17 245.5p -1.052297e-16 245.6p -1.052297e-16 245.7p -1.052297e-16 245.8p -8.769145e-17 245.9p -7.015316e-17 246p -5.261487e-17 246.1p -6.138401e-17 246.2p -2.630743e-17 246.3p -8.769145e-18 246.4p 1.753829e-17 246.5p 1.753829e-17 246.6p 3.507658e-17 246.7p 3.507658e-17 246.8p 4.384572e-17 246.9p 3.507658e-17 247p 3.507658e-17 247.1p 1.753829e-17 247.2p 1.753829e-17 247.3p 8.769145e-18 247.4p 1.753829e-17 247.5p 3.507658e-17 247.6p 5.261487e-17 247.7p 4.384572e-17 247.8p 4.384572e-17 247.9p 4.384572e-17 248p 2.630743e-17 248.1p 4.384572e-17 248.2p 1.753829e-17 248.3p -1.753829e-17 248.4p -8.769145e-18 248.5p -1.753829e-17 248.6p -2.630743e-17 248.7p -1.753829e-17 248.8p -1.753829e-17 248.9p -1.753829e-17 249p -1.753829e-17 249.1p -1.753829e-17 249.2p 0 249.3p 1.753829e-17 249.4p 2.630743e-17 249.5p 2.630743e-17 249.6p 1.753829e-17 249.7p 8.769145e-18 249.8p 1.753829e-17 249.9p 3.507658e-17 250p 5.261487e-17 250.1p 4.384572e-17 250.2p 4.384572e-17 250.3p 4.384572e-17 250.4p 2.630743e-17 250.5p 4.384572e-17 250.6p 1.753829e-17 250.7p -1.753829e-17 250.8p -8.769145e-18 250.9p -1.753829e-17 251p -2.630743e-17 251.1p -1.753829e-17 251.2p -1.753829e-17 251.3p -1.753829e-17 251.4p -1.753829e-17 251.5p -1.753829e-17 251.6p 0 251.7p 1.753829e-17 251.8p 2.630743e-17 251.9p 2.630743e-17 252p 1.753829e-17 252.1p 8.769145e-18 252.2p 1.753829e-17 252.3p 3.507658e-17 252.4p 5.261487e-17 252.5p 4.384572e-17 252.6p 4.384572e-17 252.7p 4.384572e-17 252.8p 2.630743e-17 252.9p 4.384572e-17 253p 1.753829e-17 253.1p -1.753829e-17 253.2p -8.769145e-18 253.3p -1.753829e-17 253.4p -2.630743e-17 253.5p -1.753829e-17 253.6p -1.753829e-17 253.7p -1.753829e-17 253.8p -1.753829e-17 253.9p -1.753829e-17 254p 0 254.1p 1.753829e-17 254.2p 2.630743e-17 254.3p 2.630743e-17 254.4p 1.753829e-17 254.5p 8.769145e-18 254.6p 1.753829e-17 254.7p 3.507658e-17 254.8p 5.261487e-17 254.9p 4.384572e-17 255p 4.384572e-17 255.1p 4.384572e-17 255.2p 2.630743e-17 255.3p 4.384572e-17 255.4p 1.753829e-17 255.5p -1.753829e-17 255.6p -8.769145e-18 255.7p -1.753829e-17 255.8p -2.630743e-17 255.9p -1.753829e-17 256p -1.753829e-17 256.1p -1.753829e-17 256.2p -1.753829e-17 256.3p -1.753829e-17 256.4p 0 256.5p 1.753829e-17 256.6p 2.630743e-17 256.7p 2.630743e-17 256.8p 1.753829e-17 256.9p 8.769145e-18 257p 1.753829e-17 257.1p 3.507658e-17 257.2p 5.261487e-17 257.3p 4.384572e-17 257.4p 4.384572e-17 257.5p 4.384572e-17 257.6p 2.630743e-17 257.7p 4.384572e-17 257.8p 1.753829e-17 257.9p -1.753829e-17 258p -8.769145e-18 258.1p -1.753829e-17 258.2p -2.630743e-17 258.3p -1.753829e-17 258.4p -1.753829e-17 258.5p -1.753829e-17 258.6p -1.753829e-17 258.7p -1.753829e-17 258.8p 0 258.9p 1.753829e-17 259p 2.630743e-17 259.1p 2.630743e-17 259.2p 1.753829e-17 259.3p 8.769145e-18 259.4p 1.753829e-17 259.5p 3.507658e-17 259.6p 5.261487e-17 259.7p 4.384572e-17 259.8p 4.384572e-17 259.9p 4.384572e-17 300p 0)
XJTL1 JTL_IN JTL_MID THmitll_JTL
XJTL2 JTL_MID JTL_OUT THmitll_JTL
R_TERM JTL_OUT 0 1

.tran 0.025p 300p
.print I(V_REPLAY) V(JTL_IN) V(JTL_MID) V(JTL_OUT)
.print P(B1|XJTL1) V(B1|XJTL1) I(B1|XJTL1)
.print P(B2|XJTL1) V(B2|XJTL1) I(B2|XJTL1)
.print P(B1|XJTL2) V(B1|XJTL2) I(B1|XJTL2)
.print P(B2|XJTL2) V(B2|XJTL2) I(B2|XJTL2)
.print I(L1|XJTL1) I(L2|XJTL1) I(L3|XJTL1) I(L4|XJTL1)
.print I(IB1|XJTL1) I(RB1|XJTL1) I(RB2|XJTL1)
.print I(L1|XJTL2) I(L2|XJTL2) I(L3|XJTL2) I(L4|XJTL2)
.print I(IB1|XJTL2) I(RB1|XJTL2) I(RB2|XJTL2)
.print I(R_TERM) I(L1|XJTL1)
.end
